US05095038
A solution of n-butyllithium in hexane (1.4M, 38.82 ml) was added to a -78° C. solution of diisopropylamine (7.85 ml) in tetrahydrofuran (25 ml). After stirring for 15 min, a solution of 6-(trifluoroacetamido)-3H-indene (5.92 g) in tetrahydrofuran (25 ml) was added and stirred for 1 h. The reaction mixture was cooled to -100° C. and a solution of methyl 4-bromomethyl-3-methoxybenzoate (8.44 g) in tetrahydrofuran (35 ml) was added. The mixture was allowed to warm to room temperature and stirred for 18 h. The reaction mixture was added to saturated ammonium chloride (100 ml) and ethyl acetate (150 ml). The mixture was washed (water, brine), dried (MgSO4) and evaporated. The residue was recrystallized from 10:1 methylene chloride:hexane to give methyl 3-methoxy-4-[6-(trifluoroacetamido)-3H-inden-1-ylmethyl]benzoate (1.48 g, 14%). The residue derived from the filtrate was recrystallized from 3:1 methylene chloride:hexane to give a mixture of methyl 3-methoxy-4-[6-(trifluoroacetamido)-3H-inden-1-ylmethyl]benzoate and methyl 3-methoxy-4-[6-(trifluoroacetamido)-1H-inden-1-ylmethyl]benzoate (1.92 g). This mixture was treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (1.11 g) and tetrahydrofuran (20 ml) for 18 h. After partitioning between ethyl acetate (85 ml) and 1N hydrochloric acid, the organic layer was washed (brine) and dried (MgSO4). Evaporation and trituration with methylene chloride gave a colorless solid. This was combined with the above material to give methyl 3-methoxy-4-[6-(trifluoroacetamido)-3H-inden-1-ylmethyl]-3-methoxybenzoate (2.81 g, 27% total yield from 6-(trifluoroacetamido)-3H-indene); mp 198.5°-200.0° C.; MS(CI), m/e=406(M+H).

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 7.85 ml | C(C)(C)NC(C)C | C6H15N
reactant | 6-(trifluoroacetamido)-3H-indene | 5.92 g | FC(C(=O)NC1=CC=C2CC=CC2=C1)(F)F | C11H8F3NO
reactant | methyl 4-bromomethyl-3-methoxybenzoate | 8.44 g | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | hexane | 1.4M, 38.82 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-methoxy-4-[6-(trifluoroacetamido)-3H-inden-1-ylmethyl]benzoate | 1.48 g, 14% | COC=1C=C(C(=O)OC)C=CC1CC1=CCC2=CC=C(C=C12)NC(C(F)(F)F)=O | C21H18F3NO4
